US08106047B2
A11. N-[3-(2-Methyl-phenyl)-[1,2,4]triazolo[3,4-a]phthalazin-6-yl]-benzene-1,3-diamine
To a suspension of (3-nitro-phenyl)-(3-o-tolyl-[1,2,4]triazolo[3,4-a]-phthalazin-6-yl)-amine (compound B10) (263 mg, 0.66 mmol) in a 2:1 mixture of glacial acetic acid and 37% hydrochloric acid (18 ml) is added tin chloride dihydrate (450 mg, 1.99 mmol). The mixture is stirred at 90° C. for 2 days. Upon cooling, the precipitate is filtered and the filtrate concentrated. Purification of residue by column chromatography (CH2Cl2/MeOH, 95:5) gives 205 mg of an off-white solid which is triturated with a 1:1 mixture of isopropanol and petroleum ether to yield 77 mg of the title compound as off-white needles.

reactant | (3-nitro-phenyl)-(3-o-tolyl-[1,2,4]triazolo[3,4-a]-phthalazin-6-yl)-amine | 0.66 mmol, 263 mg | [N+](=O)([O-])C=1C=C(C=CC1)NC1=NN2C(C3=CC=CC=C13)=NN=C2C2=C(C=CC=C2)C | C22H16N6O2
reactant | hydrochloric acid | 18 ml | Cl | ClH
reactant | tin chloride dihydrate | 1.99 mmol, 450 mg | O.O.[Sn](Cl)(Cl)(Cl)Cl
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-[3-(2-Methyl-phenyl)-[1,2,4]triazolo[3,4-a]phthalazin-6-yl]-benzene-1,3-diamine | 205 mg | CC1=C(C=CC=C1)C1=NN=C2N1N=C(C1=CC=CC=C21)NC2=CC(=CC=C2)N | C22H18N6
